US04225533
The cyanohydrin of 4-fluoro-3-phenoxybenzaldehyde (0.038 mol) is dissolved in 150 ml ether and cooled to 0° in an ice bath. To this is slowly added methanesulfonyl chloride in 20 ml ether. The mixture is stirred for 10 minutes then triethylamine in 20 ml ether is added dropwise. The solution turns white, and a precipitate appears. The reaction mixture is kept at 0° over-night and is then worked up with water and extracted with ether. The ether phase is washed with 30% sodium bisulfite solution (2×), ether and water (2×), and dried over sodium sulfate. The mixture is filtered and the filtrate concentrated to give α-cyano-4 fluoro-3-phenoxybenzyl methanesulfonate.

reactant | 4-fluoro-3-phenoxybenzaldehyde | 0.038 mol | FC1=C(C=C(C=O)C=C1)OC1=CC=CC=C1 | C13H9FO2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | α-cyano-4 fluoro-3-phenoxybenzyl methanesulfonate | CS(=O)(=O)OC(C1=CC(=C(C=C1)F)OC1=CC=CC=C1)C#N | C15H12FNO4S
